US04342780
Thionyl chloride (108 g) is slowly added during 1 hour to a stirred mixture of 2,5-dimethoxybenzyl alcohol (150 g), 2,4,6-collidine (108 g), and methylene chloride (750 ml) at room temperature. The reaction is slightly exothermic. After stirring for another 30 minutes, the mixture is washed with hydrochloric acid (2 N) and water and then dried (MgSO4). Evaporation gives a residue of 2,5-dimethoxybenzyl chloride which crystallizes (127 g).

reactant | Thionyl chloride | 108 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,5-dimethoxybenzyl alcohol | 150 g | COC1=C(CO)C=C(C=C1)OC | C9H12O3
reactant | 2,4,6-collidine | 108 g | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | methylene chloride | 750 ml | C(Cl)Cl | CH2Cl2
product | 2,5-dimethoxybenzyl chloride | COC1=C(CCl)C=C(C=C1)OC | C9H11ClO2
